US07105631B2
Preparation of (6-bromohexyl)trimethylammonium bromide
494 kg (5606 mol) of ethyl acetate and 244 kg (1000 mol) of 1,6-dibromohexane were charged into a reactor with stirring and simultaneous heating to 60° C. 64 kg (1080 mol) of trimethylamine were metered in at 1 bar in the course of 3 hours. After an after-reaction time of a further 3 h, the reaction mixture was cooled and filtered through a suction filter and the crystallizate obtained was washed with ethyl acetate. After drying had taken place, 288 kg (95.1%) of (6-bromohexyl)trimethylammonium bromide of 99.8% purity were obtained.

reactant | ethyl acetate | 5606 mol, 494 kg | C(C)(=O)OCC | C4H8O2
reactant | 1,6-dibromohexane | 1000 mol, 244 kg | BrCCCCCCBr | C6H12Br2
reactant | trimethylamine | 1080 mol, 64 kg | CN(C)C | C3H9N
product | (6-bromohexyl)trimethylammonium bromide | [Br-].BrCCCCCC[N+](C)(C)C | InChI=1S/C9H21BrN.BrH/c1-11(2,3)9-7-5-4-6-8-10;/h4-9H2,1-3H3;1H/q+1;/p-1
